* 基于传输门的异或门 
.subckt xor_tg in_1 in_2 out vdd vss
Xinv_size_1 in_2  in_2_n  vdd  vss  inv_size_1

Xpfet_inv out in_1 in_2   vdd pfet l=lg nfin=1
Xnfet_inv out in_1 in_2_n vss nfet l=lg nfin=1

Xpfet_tg out in_2 in_1   vdd pfet l=lg nfin=1
Xnfet_tg out in_2_n in_1 vss nfet l=lg nfin=1
.ends xor_tg